US05780483
Preparation of N-[5-nitro-2-hydroxyphenyl]-N'-phenyl urea
The N-[5-nitro-2-hydroxyphenyl]-N'-phenyl urea was prepared from the 5-nitro 2-hydroxy aniline and phenyl isocyanate according to the procedure in General Method A. The product was purified by precipitation from toluene and filtering to afford the titled compound (100 mg, 30%). 1H NMR (CD3OD): d 9.48 (s, 1H, NH), 9.07 (d, J=1.56 Hz, NH), 8.55 (s, 1H), 7.80 (dd, 1H, J=6.25 Hz and J=1.56 Hz), 7.50 (d, 2H, J=6.25. Hz), 7.30 (t, 2H, J=6.25 Hz), 7.01 (m, 2H). El-MS m/z 273 (M+H)+.

reactant | 5-nitro 2-hydroxy aniline | [N+](=O)([O-])C=1C=CC(=C(N)C1)O | C6H6N2O3
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[5-nitro-2-hydroxyphenyl]-N'-phenyl urea | 100 mg, 30% | [N+](=O)([O-])C=1C=CC(=C(C1)NC(=O)NC1=CC=CC=C1)O | C13H11N3O4
